US08207164B2
b) [1-(5-Bromo-2-fluoro-phenyl)-2,2-difluoro-eth-(Z)-ylidene]-carbamic acid tert-butyl ester
A suspension of 1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-ethanone (16.0 g, 63.2 mmol) and N-(triphenylphosphoranylidene)-carbamic acid 1,1-dimethylethyl ester (CAS 68014-21-1) (26.3 g, 69.6 mmol) in 12 ml toluene was stirred at 100° C. for 2 days. The suspension became clear. After being cooled down somewhat, hexane was added till crystallization of triphenylphosphine oxide started. The mixture was filtered and the filtrate was purified by chromatography on silica gel with hexane/TBME 1-5% to give 11.37 g of the title compound as a yellow liquid.

reactant | 1-(5-bromo-2-fluoro-phenyl)-2,2-difluoro-ethanone | 63.2 mmol, 16.0 g | BrC=1C=CC(=C(C1)C(C(F)F)=O)F | C8H4BrF3O
reactant | N-(triphenylphosphoranylidene)-carbamic acid 1,1-dimethylethyl ester | 69.6 mmol, 26.3 g | CC(C)(C)OC(N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H24NO2P
reactant | hexane | CCCCCC | C6H14
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | [1-(5-Bromo-2-fluoro-phenyl)-2,2-difluoro-eth-(Z)-ylidene]-carbamic acid tert-butyl ester | 11.37 g | C(C)(C)(C)OC(\N=C(/C(F)F)\C1=C(C=CC(=C1)Br)F)=O | C13H13BrF3NO2
